US06420365B1
A suspension of 3-bromoethoxy-2-chloro-4-methoxybenzoic acid (1.4 g, 4.5 mmol) in thionyl chloride (20 ml) is heated at 60 ° C. until dissolved (˜20 min) plus an additional 30 minutes. The reaction mixture is cooled to room temperature and excess thionyl chloride is evaporated under reduced pressure. The resulting residue is evaporated at reduced pressure with toluene (50 ml) two times to obtain 1.5 g (100%) of 2-chloro-3-bromoethoxy-4-methoxybenzoic acid chloride.

reactant | 3-bromoethoxy-2-chloro-4-methoxybenzoic acid | 4.5 mmol, 1.4 g | BrCCOC=1C(=C(C(=O)O)C=CC1OC)Cl | C10H10BrClO4
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloro-3-bromoethoxy-4-methoxybenzoic acid chloride | 1.5 g, 100% | ClC1=C(C(=O)Cl)C=CC(=C1OCCBr)OC | C10H9BrCl2O3
